US06252084B1
A mixture of 340 mg (0.92 mmol) of 1-[(3-chlorophenyl)methyl]-2-ethyl-5-methoxy-1H-indole-3-acetic acid hydrazide and 200 mg of Raney Ni in 20 mL of ethanol was heated to maintain reflux for 2.5 hours. After cooling the solvent was decanted and the Raney Ni washed twice with methylene chloride. The combined organic solvents were filtered, concentrated at reduced pressure and the residue chromatographed on silica gel eluting with ethyl acetate to give 244 mg (74% yield) of 1-[(3-chlorophenyl)methyl]-2-ethyl-5-methoxy-1H-indole-3-acetamide.

reactant | 1-[(3-chlorophenyl)methyl]-2-ethyl-5-methoxy-1H-indole-3-acetic acid hydrazide | 0.92 mmol, 340 mg | ClC=1C=C(C=CC1)CN1C(=C(C2=CC(=CC=C12)OC)CC(=O)NN)CC | C20H22ClN3O2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Ni | [Ni] | Ni
product | 1-[(3-chlorophenyl)methyl]-2-ethyl-5-methoxy-1H-indole-3-acetamide | 244 mg, 74% yield | ClC=1C=C(C=CC1)CN1C(=C(C2=CC(=CC=C12)OC)CC(=O)N)CC | C20H21ClN2O2
